US04730005
Following the procedures of Example 1(a), (b) and (c), to 4-(4-butylphenyl)butylmagnesium bromide (from 21.47 mmoles of 4-(4-butylphenyl)butyl bromide and 18.96 mmoles of magnesium) in distilled tetrahydrofuran (35 ml) was added 2-(2-methoxyphenyl)-4,4-dimethyloxazoline (16.32 mmoles) in tetrahydrofuran (15 ml). Workup of the reaction mixture furnished 2-[2-(4-(4-butylphenyl)butyl)phenyl]-4,4-dimethyloxazoline as an oil. A solution of the oxazoline (14.41 mmoles) in methyl iodide (20 ml) was refluxed under argon for 18 hours. Removal of the volatiles afforded the corresponding 3,4,4-trimethyloxazolinium iodide as a white solid (mp 91°-94° C.). To an ice cold solution of the iodide (14.07 mmoles) in methanol was added in portions sodium borohydride (14.30 mmoles). Similar treatment of the reaction mixture resulted in the isolation of the desired benzaldehyde product as an oil.

reactant | 4-(4-butylphenyl)butylmagnesium bromide | 21.47 mmoles | C(CCC)C1=CC=C(C=C1)CCCC[Mg]Br
reactant | 2-(2-methoxyphenyl)-4,4-dimethyloxazoline | 16.32 mmoles | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-(4-butylphenyl)butyl)phenyl]-4,4-dimethyloxazoline | C(CCC)C1=CC=C(C=C1)CCCCC1=C(C=CC=C1)C=1OCC(N1)(C)C | C25H33NO
